US07465815B2
To a solution of 2-(2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)-2-methylpropanoic acid obtained in Reference Example 156 (5.55 g, 16.3 mmol) in THF (50 mL) was added dropwise oxalyl chloride (2.13 mL, 24.5 mmol) with ice-cooling. The mixture was stirred for 20 minutes, and DMF (3 drops) was added thereto, and the mixture was stirred with ice-cooling for 30 minutes, and then, was warmed to room temperature. The solvent was removed by concentration under reduced pressure, and to a solution of the residue in dichloromethane (50 mL) was added aluminum chloride (3.26 g, 24.5 mmol) at −78° C., and the mixture was slowly warmed to room temperature. Ice was added to the reaction solution to separate the organic layer, and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with a saturated sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate, filtered, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 3.35 g (yield 64%) of 7-(4-isopropylbenzyl)-2,2,4,6-tetramethyl-1-benzofuran-3 (2H)-one as crude product. To a solution of this compound (3.35 g, 10.4 mmol) in acetonitrile (40 mL) was added N-bromosuccinimide (1.85 g, 10.4 mmol) with ice-cooling, and the mixture was stirred for 30 minutes. The reaction solution was warmed to room temperature, to which water was added, which was extracted with ethyl acetate. The combined organic layer was washed with a saturated brine, dried over anhydrous sodium sulfate, filtered, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19) to obtain 2.76 g (yield 66%) of 5-bromo-7-(4-isopropylbenzyl)-2,2,4,6-tetramethyl-1-benzofuran-3 (2H)-one as crude product.

reactant | 2-(2-(4-isopropylbenzyl)-3,5-dimethylphenoxy)-2-methylpropanoic acid | C(C)(C)C1=CC=C(CC2=C(OC(C(=O)O)(C)C)C=C(C=C2C)C)C=C1 | C22H28O3
reactant | oxalyl chloride | 24.5 mmol, 2.13 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 24.5 mmol, 3.26 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 7-(4-isopropylbenzyl)-2,2,4,6-tetramethyl-1-benzofuran-3 (2H)-one | 3.35 g, yield 64% | C(C)(C)C1=CC=C(CC2=C(C=C(C=3C(C(OC32)(C)C)=O)C)C)C=C1 | C22H26O2
